US04021539
N-hexyl-glucamine
The product was made from D-glucose and n-hexylamine comparable as in Example A.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | n-hexylamine | C(CCCCC)N | C6H15N
product | N-hexyl-glucamine | C(CCCCC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C12H27NO5
